US07390835B2
Step B 4-(4-Methylphenyl)-3-phenylbutan-2-one
1-Phenylacetone (200 mg, 1.49 mmol) was mixed with powdered potassium hydroxide (167 mg, 2.98 mmol) and tetra-n-butylammonium bromide (1 mol %, 5 mg) in a flask without solvent. This mixture was stirred at room temperature for 90 min. before the addition of 1-chloromethyl)-4-methylbenzene (198 μl, 1.49 mmol). The reaction mixture was then stirred overnight before diluting with water and CH2Cl2. The aqueous layer was separated and neutralized to pH 7 with 2N hydrochloric acid and extracted again into CH2Cl2. The combined organic washes were dried with MgSO4 and concentrated. The crude material was purified by column chromatography on silica gel eluting from 0-10% EtOAc/hexane to give the title compound. 1H NMR (500 MHz, CDCl3): δ 7.35 (t, J=7.0 Hz, 2H), 7.29 (t, J=7.4 Hz, 1H), 7.23 (d, J=7.1 Hz, 2H), 7.05 (d, 7.8 Hz, 2H), 6.98 (d, J=7.8 Hz, 2H), 3.94 (t, J=7.3 Hz, 1H), 3.43 (dd, J=13.9, 7.5 Hz, 1H), 2.91 (dd, J=14, 7.1 Hz, 1H), 2.32 (s, 3H), 2.08 (s, 3H). LC-MS: m/e 239 (M+H)+ (3.61 min).

reactant | 1-Phenylacetone | 1.49 mmol, 200 mg | C1(=CC=CC=C1)CC(=O)C | C9H10O
reactant | potassium hydroxide | 2.98 mmol, 167 mg | [OH-].[K+]
reactant | 4-methylbenzene | 1.49 mmol, 198 μl | CC1=CC=CC=C1 | C7H8
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium bromide | 5 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 4-(4-Methylphenyl)-3-phenylbutan-2-one | CC1=CC=C(C=C1)CC(C(C)=O)C1=CC=CC=C1 | C17H18O
